US03995056
A solution of 86.4 g of sodium hydroxide in 180 ml of water was added with stirring to a suspension of 226.6 g of ethyl 2-methoxy-3-(p-chlorobenzoyl)-benzyl-malonate in 2.8 liters of methanol and the mixture was refluxed for 3 hours and then was cooled to room temperature. The mixture was filtered and the precipitate recovered was washed with methanol, then with ether and dried. The residue was dissolved in 800 ml of water and the solution was washed with ether and acidified to a pH of 1 by addition of 0.5N hydrochloric acid. The acid precipitate formed was extracted with ether and the combined organic phases were washed with water, dried over magnesium sulfate, treated with activated carbon, filtered and evaporated to dryness under reduced pressure. The residue was crystallized from benzene to obtain 96.2 g of 2-methoxy-3-(p-chlorobenzoyl)-benzyl-malonic acid in the form of colorless crystals which melted at 142° C after crystallization from benzene.

reactant | sodium hydroxide | 86.4 g | [OH-].[Na+]
reactant | ethyl 2-methoxy-3-(p-chlorobenzoyl)-benzyl-malonate | 226.6 g | COC1=C(CC(C(=O)OCC)C(=O)[O-])C=CC=C1C(C1=CC=C(C=C1)Cl)=O
solvent | water | 180 ml | O | H2O
solvent | methanol | 2.8 liters | CO | CH4O
product | 2-methoxy-3-(p-chlorobenzoyl)-benzyl-malonic acid | 96.2 g | COC1=C(CC(C(=O)O)C(=O)O)C=CC=C1C(C1=CC=C(C=C1)Cl)=O | C18H15ClO6
